US06949579B2
512 mg of 4-chlorophenylboronic acid, 578 mg of potassium carbonate, and 167 mg of tetrakis(triphenyl)palladium are added to 900 mg of N-[6-bromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide, described in Example 51, in 40 cm3 of dioxane. The mixture is then heated at about 104° C. for 2 hours and the temperature is allowed to return to about 19° C. over 16 hours. The reaction medium is diluted with 75 cm3 of ethyl acetate, filtered through a sinter funnel packed with Celite and concentrated to dryness under reduced pressure (2 kPa; 50° C.). The residue is taken up in 100 cm3 of ethyl acetate and 50 cm3 of water. The organic phase is washed again with 25 cm3 of saturated aqueous sodium chloride solution and then separated out after settling of the phases has taken place, dried over magnesium sulphate, filtered and evaporated under reduced pressure (2 kPa; 50° C.). The residue is purified by chromatography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 2.5 cm), eluting with a cyclohexane/ethyl acetate mixture (80/20 by volume). The fractions containing the expected product are combined and evaporated under reduced pressure (2 kPa; 50° C.); 600 mg of N-[6-(4-chlorophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide are obtained in the form of a yellow wax.

reactant | 4-chlorophenylboronic acid | 512 mg | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | potassium carbonate | 578 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-[6-bromo-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 900 mg | BrC1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C17H26BrN3O2Si
solvent | dioxane | 40 cm3 | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 75 cm3 | C(C)(=O)OCC | C4H8O2
product | N-[6-(4-chlorophenyl)-1-[[2-(trimethylsilyl)ethoxy]methyl]-1H-indazol-3-yl]butanamide | 600 mg | ClC1=CC=C(C=C1)C1=CC=C2C(=NN(C2=C1)COCC[Si](C)(C)C)NC(CCC)=O | C23H30ClN3O2Si
